US08801966B2
1. 6-(3,4,5-trifluorophenyl)naphthalene-2-ol (Compound 1)
A flame dried 500 ml round-bottomed flask with a magnetic stir bar, was charged with 6-hydroxy-2-bromonaphthalene (8.0 g, 35.89 mMol), 3,4,5-trifluorophenyl boronic acid (6.9 g, 39.5 mMol), 75 mL toluene, 2M K2CO3 (80 mL), Bu4NBr (50 mg) and the mixture flushed with argon for 10 min. [Pd(PPh3)4] (0.5 g) was added and the mixture heated under argon at ˜85° C. overnight, with vigorous stirring. After cooling to room temperature, 50 mL water was added, extracted with 3×25 mL ethyl acetate, the organic extracts dried over MgSO4, and the crude product was then crystallized from a mixture of hexane and few drops of methanol. Yield: 8 g (87%).

reactant | 6-hydroxy-2-bromonaphthalene | 35.89 mMol, 8.0 g | OC=1C=C2C=CC(=CC2=CC1)Br | C10H7BrO
reactant | 3,4,5-trifluorophenyl boronic acid | 39.5 mMol, 6.9 g | FC=1C=C(C=C(C1F)F)B(O)O | C6H4BF3O2
reactant | K2CO3 | 2M, 80 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | Bu4NBr | 50 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(3,4,5-trifluorophenyl)naphthalene-2-ol | FC=1C=C(C=C(C1F)F)C=1C=C2C=CC(=CC2=CC1)O | C16H9F3O
